US04232032
A mixture of 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carbonyl chloride (5.0 g.) and 2,2,2-trichloroethanol (25 ml.) was warmed on a steam bath for 2 hours. The reaction mixture was cooled, and water was added to produce a white precipitate which was filtered off and crystallised from a mixture of ether and petroleum ether (b.p. 60°-80° C.) to give 2,2,2-trichloroethyl 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylate, m.p. 129°-130° C.

reactant | 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carbonyl chloride | 5.0 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C(=O)Cl)(Cl)Cl | C11H5Cl7O3
reactant | 2,2,2-trichloroethanol | 25 ml | ClC(CO)(Cl)Cl | C2H3Cl3O
reactant | water | O | H2O
product | 2,2,2-trichloroethyl 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylate | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C(=O)OCC(Cl)(Cl)Cl)(Cl)Cl | C13H7Cl9O4
